* C:\Users\mp\Dropbox\flora2\04_power\041_sensor_pwr\ltspice_sim\sensor_pwr.asc
XU1 N002 N003 0 ZVN4206A
XU2 out N002 N001 ZVP2106A
R1 N003 ctrl 100
R2 N002 N001 10k
R3 0 out 50
V1 N001 0 5
V2 ctrl 0 PULSE(0 3.3 0.1 0 0 0 0.1 5)
.tran 1
.lib C:\Users\mp\Desktop\ZVN4206A.net
.lib C:\Users\mp\Desktop\ZVP2106A.net
.backanno
.end
